US03935213
A solution containing 2.62 g. (0.01 mole) of 3,4,5-trimethoxy-2-aminobenzamidine hydrochloride and 1.83 g. (0.01 mole) of 1-cyano-4-ethoxycarbonylpiperazine in 50 ml. of anhydrous ethanol is stirred at ambient temperature overnight. A 5-ml. aliquot of triethylamine is then added and the reaction mixture is heated under reflux for 12 hours. It is then worked up as described in Example XI, giving 6,7,8-trimethoxy-4-amino-2-[4-ethoxycarbonylpiperazin-1-yl]quinazoline.

reactant | 3,4,5-trimethoxy-2-aminobenzamidine hydrochloride | 0.01 mole | Cl.COC=1C(=C(C(=N)N)C=C(C1OC)OC)N
reactant | 1-cyano-4-ethoxycarbonylpiperazine | 0.01 mole | C(#N)N1CCN(CC1)C(=O)OCC | C8H13N3O2
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6,7,8-trimethoxy-4-amino-2-[4-ethoxycarbonylpiperazin-1-yl]quinazoline | COC=1C=C2C(=NC(=NC2=C(C1OC)OC)N1CCN(CC1)C(=O)OCC)N | C18H25N5O5
